US04107326
1-Benzyl-3-(2,4,6-triethoxybenzylideneamino)guanidine
A mixture of 10.0 g. of 1-amino-3-benzylguanidine hydroiodide and 100 ml. each of diethyl ether, n-hexane and methylene chloride is shaken with 10 ml. of 5N NaOH. To this is added 8.15 g. of 2,4,6-triethoxybenzaldehyde and the mixture is shaken for 15 minutes. The organic layer is washed with saturated aqueous sodium chloride, passed through hydrous sodium magnesium silicate and concentrated to dryness under reduced pressure. The residue is crystallized from aqueous ethanol, giving the desired product as nearly colorless crystals, m.p. 140°-141° C.

reactant | 1-amino-3-benzylguanidine hydroiodide | I.NNC(=N)NCC1=CC=CC=C1
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NaOH | 5N | [OH-].[Na+]
reactant | 2,4,6-triethoxybenzaldehyde | C(C)OC1=C(C=O)C(=CC(=C1)OCC)OCC | C13H18O4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 1-Benzyl-3-(2,4,6-triethoxybenzylideneamino)guanidine | C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=C(C=C1OCC)OCC)OCC | C21H28N4O3
